US05081237
Allyl 2-[(3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetate (9.78 g) was dissolved in degassed xylene (150 ml) and the solution was heated to 150° C. for 10 hours. Evaporation of the mixture gave a residue, which was chromatographed on silica gel (250 ml) eluting with a mixture of n-hexane and ethyl acetate (2:8-7:3 V/V) to give allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-{(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (5.36 g).

reactant | Allyl 2-[(3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetate | 9.78 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(/C(C[C@@H]1[C@H](C(N1C(C(=O)OCC=C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)\C | C47H59N2O7PSi
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-{(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 5.36 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C29H44N2O6Si
